US04382143
Preparation of O-(4-hexadecylamino-2-thiophenecarbonyl)malic acid
A warm solution of 4-[N-(carbobenzyloxy)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride and 1.3 g. of triethylamine in 100 ml. ether is treated with 2 g. malic acid. An immediate precipitate forms, but the mixture is refluxed for one hour and filtered while hot. The solid is washed several times with hot ether; then the ether is evaporated to yield a white solid. The product is dissolved in tetrahydrofuran (100 ml.) and hydrogenated over 600 mg. 10% palladium-on-carbon at 50 psi until hydrogen uptake stops. The catalyst is filtered, and the solution is evaporated. The residue is crystallized from acetic acid to yield the product as a white solid.

reactant | 4-[N-(carbobenzyloxy)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride | C(=O)(OCC1=CC=CC=C1)N(CCCCCCCCCCCCCCCC)C=1C=C(SC1)C(=O)Cl | C29H42ClNO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | O-(4-hexadecylamino-2-thiophenecarbonyl)malic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)OC(C(O)CC(=O)O)=O | C25H41NO6S
